US08048862B2
To a solution of benzyl alcohol (1 g, 8.6 mmol) in 10 mL of dry DMF was added to NaH (0.7 g, 17.1 mmol.) at 0° C. The reaction mixture was stirred at 0° C. for 30 min under N2. To the resulting mixture was added 2-sulfamoyl fluorobenzene (1 g, 5.7 mmol.) in 20 mL of dry DMF. The reaction mixture was stirred at 80-90° C. for 3 hours. After cooling to r.t., the reaction mixture was poured into ice-water and neutralized with aq. HCl (2 M) to pH 7. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic layer was over Na2SO4, filtered and concentrated to afford crude 1-(phenoxymethyl)-2-sulfamoylbenzene (1 g, 66.7%), which was used directly without further purification.

reactant | benzyl alcohol | 8.6 mmol, 1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 17.1 mmol, 0.7 g | [H-].[Na+]
reactant | 2-sulfamoyl fluorobenzene | 5.7 mmol, 1 g | S(N)(=O)(=O)C1=C(C=CC=C1)F | C6H6FNO2S
reactant | HCl | 2 M | Cl | ClH
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(phenoxymethyl)-2-sulfamoylbenzene | 1 g, 66.7% | O(C1=CC=CC=C1)CC1=C(C=CC=C1)S(N)(=O)=O | C13H13NO3S
